US08445530B2
3-[2-(3-Bromo-phenyl)-ethoxy]-4-methoxy-benzoic acid methyl ester
Methyl 3-hydroxy-4-methoxybenzoate (500 mg, 2.75 mmol) and triphenylphosphine (1.08 g, 4.12 mmol) were dissolved in THF (13 ml), the solution was cooled in an ice bath and 2-(3-bromophenyl)-ethanol (662 mg, 3.29 mmol) and DIAD (886 mg, 4.12 mmol) were added sequentially. Stirring was continued for 3 h at room temperature. The reaction mixture was evaporated to dryness and the residue purified by preparative RP HPLC (water/ACN gradient) to give 900 mg of the title compound.

reactant | Methyl 3-hydroxy-4-methoxybenzoate | 2.75 mmol, 500 mg | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | triphenylphosphine | 4.12 mmol, 1.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(3-bromophenyl)-ethanol | 3.29 mmol, 662 mg | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | DIAD | 4.12 mmol, 886 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 3-[2-(3-Bromo-phenyl)-ethoxy]-4-methoxy-benzoic acid methyl ester | 900 mg | COC(C1=CC(=C(C=C1)OC)OCCC1=CC(=CC=C1)Br)=O | C17H17BrO4
